US05132303
Preparation of 8-[4,4-bis(4-fluorophenyl)-3-butenyl]-3-cyclohexyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane
20.4 g of 8-[4,4-bis(4-fluorophenyl)-3-butenyl]-3-cyclohexyl-4-hydroxy-4-methyl-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane are boiled with 1.52 g of p-toluenesulfonic acid monohydrate in 204 ml of xylene while stirring in an apparatus fitted with a water-trap and azeotropically distilling off the water formed in the reaction. After the termination of the reaction (about 2 hours) the reaction mixture is cooled down and its pH value is adjusted to 9-10 by adding 5% by weight aqueous sodium hydroxide solution. Then, the organic phase is washed with water to neutral, dried over anhydrous sodium sulfate and evaporated under reduced pressure. After recrystallizing the residue from a mixture of benzene and ethanol, the title product is obtained in 90.3% yield, m.p.: 145°-146° C.

reactant | 8-[4,4-bis(4-fluorophenyl)-3-butenyl]-3-cyclohexyl-4-hydroxy-4-methyl-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane | 20.4 g | FC1=CC=C(C=C1)C(=CCCN1CCC2(C(N(C(O2)=O)C2CCCCC2)(C)O)CC1)C1=CC=C(C=C1)F | C30H36F2N2O3
reactant | p-toluenesulfonic acid monohydrate | 1.52 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydroxide | [OH-].[Na+]
solvent | xylene | 204 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 8-[4,4-bis(4-fluorophenyl)-3-butenyl]-3-cyclohexyl-4-methylene-2-oxo-1-oxa-3,8-diazaspiro[4,5]decane | 90.3% yield | FC1=CC=C(C=C1)C(=CCCN1CCC2(C(N(C(O2)=O)C2CCCCC2)=C)CC1)C1=CC=C(C=C1)F | C30H34F2N2O2
